US05010079
3.2 3-(Ethylthio)-5-fluoro-1,3-dimethyl-1,3-dihydro-2(2H)-indolone
11.3 g (0.05 mole) of 3-(ethylthio)-5-fluoro-3-methyl-1,3-dihydro-2(2H)-indolone are methylated as described under 2.2, starting with 2.6 g (0.055 mole) of 50% strength NaH and 3.7 ml of methyl iodide.

reactant | 3-(ethylthio)-5-fluoro-3-methyl-1,3-dihydro-2(2H)-indolone | 0.05 mole, 11.3 g | C(C)SC1(C(NC2=CC=C(C=C12)F)=O)C | C11H12FNOS
reactant | NaH | [H-].[Na+]
reactant | methyl iodide | 3.7 ml | CI | CH3I
product | 3-(Ethylthio)-5-fluoro-1,3-dimethyl-1,3-dihydro-2(2H)-indolone | C(C)SC1(C(N(C2=CC=C(C=C12)F)C)=O)C | C12H14FNOS
